************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: SEDFFHQX8
* View Name:     schematic
* Netlisted on:  Jun  4 07:50:31 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    SEDFFHQX8
* View Name:    schematic
************************************************************************

.SUBCKT SEDFFHQX8 CK D E Q SE SI VDD VSS
*.PININFO CK:I D:I E:I SE:I SI:I VDD:I VSS:I Q:O
Mmn4 Db E net526 VSS g45n1svt m=1 l=45n w=260n
Mmn3 net526 D VSS VSS g45n1svt m=1 l=45n w=260n
Mmn13 Dbp SE net518 VSS g45n1svt m=1 l=45n w=260n
Mmn12 net518 SI VSS VSS g45n1svt m=1 l=45n w=260n
Mmn55 Q qbint VSS VSS g45n1svt m=1 l=45n w=2.065u
Mmn50 net509 qbint VSS VSS g45n1svt m=1 l=45n w=205n
Mmn51 n30 CKb net509 VSS g45n1svt m=1 l=45n w=205n
Mmn35 net501 mout VSS VSS g45n1svt m=1 l=45n w=205n
Mmn36 n20 Ckbb net501 VSS g45n1svt m=1 l=45n w=205n
Mmn1 net494 qint VSS VSS g45n1svt m=1 l=45n w=260n
Mmn2 Db Eb net494 VSS g45n1svt m=1 l=45n w=260n
Mmn45 qbint n30 VSS VSS g45n1svt m=1 l=45n w=780n
Mmn56 qint qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn21 Ckbb CKb VSS VSS g45n1svt m=1 l=45n w=145n
Mmn40 n30 Ckbb mout VSS g45n1svt m=1 l=45n w=205n
Mmn30 mout n20 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn10 SEb SE VSS VSS g45n1svt m=1 l=45n w=145n
Mmn0 Eb E VSS VSS g45n1svt m=1 l=45n w=145n
Mmn25 n20 CKb Dbp VSS g45n1svt m=1 l=45n w=205n
Mmn20 CKb CK VSS VSS g45n1svt m=1 l=45n w=145n
Mmn11 Db SEb Dbp VSS g45n1svt m=1 l=45n w=260n
Mmp4 Db Eb net449 VDD g45p1svt m=1 l=45n w=390n
Mmp3 net449 D VDD VDD g45p1svt m=1 l=45n w=390n
Mmp13 Dbp SEb net441 VDD g45p1svt m=1 l=45n w=390n
Mmp12 net441 SI VDD VDD g45p1svt m=1 l=45n w=390n
Mmp51 n30 Ckbb net426 VDD g45p1svt m=1 l=45n w=310n
Mmp50 net426 qbint VDD VDD g45p1svt m=1 l=45n w=310n
Mmp55 Q qbint VDD VDD g45p1svt m=1 l=45n w=3.115u
Mmp35 net417 mout VDD VDD g45p1svt m=1 l=45n w=310n
Mmp36 n20 CKb net417 VDD g45p1svt m=1 l=45n w=310n
Mmp20 CKb CK VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 net405 qint VDD VDD g45p1svt m=1 l=45n w=390n
Mmp2 Db E net405 VDD g45p1svt m=1 l=45n w=390n
Mmp45 qbint n30 VDD VDD g45p1svt m=1 l=45n w=1.17u
Mmp56 qint qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp21 Ckbb CKb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp40 n30 CKb mout VDD g45p1svt m=1 l=45n w=310n
Mmp30 mout n20 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp11 Db SE Dbp VDD g45p1svt m=1 l=45n w=390n
Mmp10 SEb SE VDD VDD g45p1svt m=1 l=45n w=215n
Mmp0 Eb E VDD VDD g45p1svt m=1 l=45n w=215n
Mmp25 n20 Ckbb Dbp VDD g45p1svt m=1 l=45n w=310n
.ENDS

